US06989382B2
N-Methyl ethanolamine (2 eq) was added to a stirred solution N-[4-({2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}amino)-2-(2,4-dichlorophenyl)phenyl]-2-bromoacetamide (8.65 eq) in CH3CN at room temperature. The reaction was monitored by LC/MS and was determined to be complete after 12 hours. The reaction was concentrated and purified by silica column chromatography eluting with MeOH in CH2Cl2 (5:95, v/v). After collecting the purified fractions and concentrating, N-[4-({2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}amino)-2-(2,4-dichlorophenyl)phenyl]-2-[(2-hydroxyethyl)methylamino]acetamide was obtained as a light yellow glass (21% yield, LC/MS m/z 549.4 MH+) in 95% purity.

reactant | N-Methyl ethanolamine | 2 eq | CNCCO | C3H9NO
reactant | N-[4-({2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}amino)-2-(2,4-dichlorophenyl)phenyl]-2-bromoacetamide | 8.65 eq | NC1=C(C=CC(=N1)NCCNC1=CC(=C(C=C1)NC(CBr)=O)C1=C(C=C(C=C1)Cl)Cl)[N+](=O)[O-] | C21H19BrCl2N6O3
solvent | CH3CN | CC#N | C2H3N
product | N-[4-({2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}amino)-2-(2,4-dichlorophenyl)phenyl]-2-[(2-hydroxyethyl)methylamino]acetamide | 21% yield | NC1=C(C=CC(=N1)NCCNC1=CC(=C(C=C1)NC(CN(C)CCO)=O)C1=C(C=C(C=C1)Cl)Cl)[N+](=O)[O-] | C24H27Cl2N7O4
